US05356918
16(b) (4R)-N-(2-Nitrooxyethyl)-2-oxothiazolidine-4-carboxamide
0.44 g of nitronium tetrafluoroborate and a solution of 0.41 g of 2,4,6-collidine in 20 ml of acetonitrile were added at a temperature of from -10° C. to 0° C. to 30 ml of acetonitrile, and the resulting mixture was stirred at the same temperature for 30 minutes. At the end of this time, 0.50 g of (4R)-N-(2-hydroxyethyl)-2-oxothiazolidine-4-carboxamide was added to the mixture, and the mixture was stirred at room temperature for 4 hours. The reaction mixture was then freed from the solvent by distillation under reduced pressure. The residue was mixed with ethyl acetate and insoluble materials were filtered off. The filtrate was concentrated by evaporation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel, using ethyl acetate as the eluent. The pale yellow crystals thus obtained were recrystallized from ethyl acetate, to give 86 mg of the title compound as colorless crystals.

reactant | nitronium tetrafluoroborate | 0.44 g | F[B-](F)(F)F.O=[N+]=O
reactant | 2,4,6-collidine | 0.41 g | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | (4R)-N-(2-hydroxyethyl)-2-oxothiazolidine-4-carboxamide | 0.50 g | OCCNC(=O)[C@H]1NC(SC1)=O | C6H10N2O3S
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | (4R)-N-(2-Nitrooxyethyl)-2-oxothiazolidine-4-carboxamide | 86 mg | [N+](=O)([O-])OCCNC(=O)[C@H]1NC(SC1)=O | C6H9N3O5S
